US08084448B2
B. 2-{(E)-4-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-but-3-enyl}-isoindole-1,3-dione
Tetrabutylammonium fluoride (1.0M in THF, 1.5 mL) is added to a suspension of PS-isocyanate resin (0.4 g) in THF (1.5 mL) and the mixture is stirred at RT for 2 h. The resin is filtered off and the filtrate is added to a solution of 2-((E)-4-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-but-3-enyl)-isoindole-1,3-dione (90 mg, 0.146 mmol) in THF (1 mL). The reaction is stirred at 65° C. for 1 h and at RT for 18 h. The mixture is cooled and concentrated. The residue is partitioned between EtOAc and water and the organic layer is washed with 2N HCl (3×) and saturated aqueous sodium chloride. The organic layer is dried over Na2SO4 and the solvent removed under reduced pressure to give the title compound: (M−1)−=516.

reactant | Tetrabutylammonium fluoride | 1.0M, 1.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | isocyanate | 0.4 g | [N-]=C=O
reactant | 2-((E)-4-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-but-3-enyl)-isoindole-1,3-dione | 0.146 mmol, 90 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)/C=C/CCN1C(C2=CC=CC=C2C1=O)=O | C32H35N3O6SSi
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-{(E)-4-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-but-3-enyl}-isoindole-1,3-dione | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)/C=C/CCN1C(C2=CC=CC=C2C1=O)=O | C27H23N3O6S
